US04026712
A solution of 5-norbornene-2-carboxylic acid (0.25 mole) in 100 ml. of ethyl acetate is hydrogenated over 5% palladium on carbon catalyst at 40 psi and 30°-50° C. The theoretical amount of hydrogen is absorbed exothermically within 0.5 hour. Removal of catalyst and solvent affords a residue of essentially pure norbornane-2-carboxylic acid, as indicated by infrared, NMR, and glpc analyses. The substituted acids are reduced readily in the same way.

reactant | 5-norbornene-2-carboxylic acid | 0.25 mole | C12C(CC(C=C1)C2)C(=O)O | C8H10O2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | norbornane-2-carboxylic acid | C12C(CC(CC1)C2)C(=O)O | C8H12O2
